US08106070B2
Sodium bicarbonate (17.36 g, 207 mmol) was added to an ambient temperature solution of 2-{[(benzyloxy)carbonyl]amino}-3-(4-bromophenyl)propanoic acid (7.79 g, 20.7 mmol), 1-amino-4,4-dimethylhexan-2-ol (3 g, 20.7 mmol), 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride (7.92 g, 41.4 mmol) and 1-hydroxybenzotriazole (5.58 g, 41.4 mmol) in methylene chloride (150 mL). After stirring at ambient temperature overnight, the reaction mixture was quenched with water and extracted with methylene chloride. The combined organic extracts were dried (magnesium sulfate) and concentrated in vacuo. Chromatography over silica eluting with 0-80% ethyl acetate/hexane afforded benzyl {1-(4-bromobenzyl)-2-[(2-hydroxy-4,4-dimethylhexyl)amino]-2-oxoethyl}carbamate.

reactant | Sodium bicarbonate | 207 mmol, 17.36 g | C([O-])(O)=O.[Na+]
reactant | 2-{[(benzyloxy)carbonyl]amino}-3-(4-bromophenyl)propanoic acid | 20.7 mmol, 7.79 g | C(C1=CC=CC=C1)OC(=O)NC(C(=O)O)CC1=CC=C(C=C1)Br | C17H16BrNO4
reactant | 1-amino-4,4-dimethylhexan-2-ol | 20.7 mmol, 3 g | NCC(CC(CC)(C)C)O | C8H19NO
reactant | 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride | 41.4 mmol, 7.92 g | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 41.4 mmol, 5.58 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | methylene chloride | 150 mL | C(Cl)Cl | CH2Cl2
product | benzyl {1-(4-bromobenzyl)-2-[(2-hydroxy-4,4-dimethylhexyl)amino]-2-oxoethyl}carbamate | BrC1=CC=C(CC(C(=O)NCC(CC(CC)(C)C)O)NC(OCC2=CC=CC=C2)=O)C=C1 | C25H33BrN2O4
